US08859773B2
Step 4: 2-methyl-3-oxo-2,3-dihydro-1H-indazole-5-carboxylic acid
1-Ethyl 5-methyl 2-methyl-3-oxo-2,3-dihydro-1H-indazole-1,5-dicarboxylate (300 mg, 1.08 mmol) was dissolved in ethanol (4 mL). Potassium hydroxide (485 mg, 8.62 mmol) was added and the reaction was stirred at room temperature for 1.5 hours. LCMS showed the reaction to be incomplete. An aqueous solution of potassium hydroxide (10 mL, 10 mmol, 1.0 M) was then added and the reaction was heated to 65° C. for 2 hours. The reaction was cooled to room temperature and concentrated. The resulting orange solid was dissolved in water and acidified with 1 N aqueous hydrochloric acid. The precipitate was collected by filtration and dried under vacuum to give the title compound (158 mg, 76%) as a white solid. +ESI (M+H) 193.1; 1H NMR (400 MHz, DMSO-d6, δ): 12.75 (br. s., 1H), 11.06 (s, 1H), 8.15 (s, 1H), 7.99 (dd, J=8.7, 1.5 Hz, 1H), 7.28 (d, J=8.6 Hz, 1H), 3.37 (s, 3H).

reactant | 1-Ethyl 5-methyl 2-methyl-3-oxo-2,3-dihydro-1H-indazole-1,5-dicarboxylate | 1.08 mmol, 300 mg | CN1N(C2=CC=C(C=C2C1=O)C(=O)OC)C(=O)OCC | C13H14N2O5
reactant | Potassium hydroxide | 8.62 mmol, 485 mg | [OH-].[K+]
reactant | potassium hydroxide | 10 mmol, 1.0 M, 10 mL | [OH-].[K+]
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 2-methyl-3-oxo-2,3-dihydro-1H-indazole-5-carboxylic acid | 158 mg, 76% | CN1NC2=CC=C(C=C2C1=O)C(=O)O | C9H8N2O3
